Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
aminophylline / codeine / aspirin / raw onions / raw spinach / 
Zofran (as hydrochloride)
 
Attending: ___.
 
Chief Complaint:
Fevers, abdominal pain
 
Major Surgical or Invasive Procedure:
Performed on ___: ___ aspiration of abdominal wall hematoma

 
History of Present Illness:
___ year old lady who recently underwent an open pylorus 
preserving pancreaticoduodenectomy with cholecystectomy on 
___ and now presents 36 hours after spiking a fever to 103 
degrees at her rehabilitation facility. She has been living at 
the facility since her discharge from ___ on ___ at which 
time she had a known stable right abdominal wall hematoma but 
otherwise had been uncomplicated.  She initially presented to 
the ___ ED who took a CT abdomen/pelvis which was 
reportedly unremarkable excepting some post-surgical vs. 
inflammatory changes of the small bowel and the known right 
anterior abdominal wall collection vs. hematoma. Following this 
scan ___ contacted the ___ service at ___. 
They were recommended to begin antibiotics and observe the 
patient, and should she fail to improve, to transfer her to 
___. Instead they discharged her back to rehab without 
administering antibiotics, where she continued to spike fevers. 
The ___ service became aware of this and contacted Mrs. 
___ to request she present to ___ for proper evaluation and 
treatment, which she did. She states she has been having 
intermittent abdominal pain associated with the fevers, but none 
in the last 12 hours. She has been having subjective fevers, 
sweats and rigors in addition to her objective fevers. She 
denies nausea or emesis, dysuria, cough or SOB, but does endorse 
fatigue. On exam her wound is well-healed with steristrips still 
in place without erythema or induration, her abdomen is soft and 
moderately tender in the LLQ and her lungs are clear to 
auscultation.
 
Past Medical History:
reflux, asthma, bradycardia,osteoporosis, ocular migraines, 
frontal meningioma (stable), cerebral aneurysm, thalassemia 
trait carrier, HPV, essential tremor

 
Social History:
___
Family History:
PGF - stomach cancer diagnosed in ___
MGF - throat cancer
F - lung and stomach cancer, diagnosed at ___
Brother - pancreatic, diagnosed at ___
Brother - colon cancer w/ mets to liver, diagnosed in ___
Sister - breast cancer, diagnosed at ___
Sister - breast cancer, diagnosed at ___
Daughter - thyroid cancer, s/p thyroidectomy, age ___
Nephew - thyroid cancer, s/p thyroidectomy

 
Physical Exam:
Gen: NAD, resting comfortably in bed
CV: RRR, normal S1/S2
P: nonlabored breathing on room air, CTAB
GI: soft, nontender, nondistended; steristrips in place; no 
surrounding erythema, fluctuance or skin breakdown
Ext: WWP, no edema
 
Pertinent Results:
___:
WBC: 3.8, Hb 8.2, Hct 27.2, Plt 168
Na 134, K 3.6, Cl 97, HCO3 27, BUN 10, Cr 0.8, Glu 102
 
Brief Hospital Course:
The patient was admitted to the ___ surgical 
___ on ___ for evaluation and management of her fevers 
and abdominal pain. On hospital day #1, she was started on 
vancomycin/zosyn and her Tmax was 102. On HD2, the patient was 
afebrile and denied any chills or rigors. Her IVFs were stopped 
in the setting of good oral intake. On ___, the patient was 
taken to ___ for aspiration of her abdominal wall hematoma to 
rule out an infectious source of her fevers. The aspiration 
specimen was sent for culture and the patient was continued on 
her regular diet with good tolerance. The gram stain was 
ultimately negative. On ___, the patient was transition to 
PO augmentin and her IV antibiotics were stopped. On this day 
she would have a bowel movement and felt much improved. The 
patient was discharged home on ___ tolerating regular diet 
and having regular bowel movements. Her home medications were 
restarted prior to leaving the hospital. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating frequently, voiding without assistance, and her 
pain was well controlled.  The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen ___ mg PO Q8H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Aspirin ___AILY 
4. Creon 12 2 CAP PO TID W/MEALS 
5. Docusate Sodium 100 mg PO BID 
6. Enoxaparin Sodium 40 mg SC DAILY 
7. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
8. Pantoprazole 40 mg PO Q24H 
9. Senna 8.6 mg PO BID 
10. Sodium Chloride Nasal ___ SPRY NU QID:PRN Dryness/congestion 

11. Magnesium Oxide 400 mg PO DAILY 
12. LOPERamide 2 mg PO TID:PRN diarrhea 

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Aspirin ___AILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 
four (4) hours Disp #*20 Tablet Refills:*0
6. Sodium Chloride Nasal ___ SPRY NU QID:PRN Dryness/congestion 
7. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0
8. Pantoprazole 40 mg PO Q24H 
9. Magnesium Oxide 400 mg PO DAILY 
10. LOPERamide 2 mg PO TID:PRN diarrhea 
11. Creon 12 2 CAP PO TID W/MEALS 
12. Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
13. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate [Augmentin] 250 mg-62.5 mg/5 mL 
5mL suspension(s) by mouth every twelve (12) hours Disp #*70 
Milliliter Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fevers, abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner if you experience 
the following:
 *You experience new chest pain, pressure, squeezing or 
tightness.
 *New or worsening cough, shortness of breath, or wheeze.
 *If you are vomiting and cannot keep down fluids or your 
medications.
 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
 *You see blood or dark/black material when you vomit or have a 
bowel movement.
 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
 *Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
 *Any change in your symptoms, or any new symptoms that concern 
you.
 .
 General Discharge Instructions:
 Please resume all regular home medications , unless 
specifically advised not to take a particular medication.  Also, 
please take any new medications as prescribed.
 Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
 Avoid driving or operating heavy machinery while taking pain 
medications.
 Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
 Incision Care:
 *Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
 *Avoid swimming and baths until your follow-up appointment.
 *You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
 *If you have staples, they will be removed at your follow-up 
appointment.
 *If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___